* File: path_delay_4.pex.netlist.pex
* Created: Wed Apr 13 17:22:44 2022
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PATH_DELAY_4%NET9 10 11 15 16 20 21 27 33 39 43 49 53 59 64
c0 80 0 2.12909f
c1 77 0 0.147892f
c2 74 0 0.0229813f
c3 72 0 0.0987694f
c4 67 0 0.0117685f
c5 66 0 0.0117685f
c6 65 0 0.0194524f
c7 64 0 0.612189f
c8 59 0 0.400037f
c9 55 0 0.060142f
c10 53 0 0.328931f
c11 49 0 0.242926f
c12 45 0 0.0594571f
c13 43 0 0.339258f
c14 39 0 0.242911f
c15 35 0 0.0616168f
c16 33 0 0.242427f
c17 30 0 0.0283692f
c18 29 0 0.0582484f
c19 27 0 0.251765f
c20 24 0 0.474558f
c21 19 0 0.47963f
c22 14 0 0.267045f
c23 9 0 0.0197991f
c24 5 0 0.0421019f
c25 4 0 0.102203f
r26 80 81 8
r27 76 80 4.1249
r28 76 77 8
r29 69 72 3.312
r30 69 77 13.2552
r31 62 72 5.0159
r32 62 64 221.5
r33 61 74 3.81101
r34 61 64 202.25
r35 57 74 3.81101
r36 57 59 142.75
r37 56 67 4.5
r38 55 74 0.990414
r39 55 56 25.5
r40 51 67 4.5
r41 51 53 202.25
r42 47 67 4.5
r43 47 49 142.75
r44 46 66 4.5
r45 45 67 4.5
r46 45 46 25.5
r47 41 66 4.5
r48 41 43 202.25
r49 37 66 4.5
r50 37 39 142.75
r51 36 65 3.81101
r52 35 66 4.5
r53 35 36 25.5
r54 31 65 0.990414
r55 31 33 142.75
r56 29 65 3.81101
r57 29 30 25.5
r58 25 30 5.02856
r59 25 27 142.75
r60 23 24 4.08318
r61 21 23 1.19378
r62 20 23 1.18446
r63 19 81 0.4508
r64 18 19 4.08318
r65 16 18 1.19378
r66 15 18 1.18446
r67 13 14 4.08318
r68 11 13 1.19378
r69 10 13 1.48756
r70 8 19 0.3934
r71 8 9 0.0286055
r72 7 24 0.83087
r73 7 9 0.0286055
r74 6 14 0.427609
r75 5 6 0.039111
r76 4 9 0.00858509
r77 4 5 0.366739
.ends

.subckt PM_PATH_DELAY_4%NET10 10 11 15 16 20 21 27 31 37 41 47 52 57 65
c0 83 0 2.27084f
c1 77 0 0.0196813f
c2 76 0 0.330102f
c3 75 0 0.0133837f
c4 73 0 0.122572f
c5 72 0 0.0985552f
c6 68 0 0.00569967f
c7 67 0 0.00569967f
c8 66 0 0.0169776f
c9 62 0 0.0417647f
c10 59 0 0.0893085f
c11 57 0 0.243173f
c12 53 0 0.063979f
c13 52 0 0.371475f
c14 47 0 0.244393f
c15 43 0 0.063923f
c16 41 0 0.329768f
c17 37 0 0.244406f
c18 33 0 0.063979f
c19 31 0 0.561193f
c20 27 0 0.400159f
c21 24 0 0.474558f
c22 19 0 0.26592f
c23 14 0 0.379682f
c24 8 0 0.0197991f
c25 4 0 0.144301f
r26 83 84 8
r27 79 83 3.84384
r28 76 77 5.28261
r29 73 79 8
r30 72 73 13.2552
r31 69 72 3.348
r32 65 76 117.5
r33 62 77 18.5
r34 60 75 3.81101
r35 59 62 5.02856
r36 59 60 23
r37 55 75 0.990414
r38 55 57 142.75
r39 54 68 4.5
r40 53 75 3.81101
r41 53 54 25.5
r42 50 69 5.0159
r43 50 52 195.25
r44 49 68 4.5
r45 49 52 202.25
r46 45 68 4.5
r47 45 47 142.75
r48 44 67 4.5
r49 43 68 4.5
r50 43 44 25.5
r51 39 67 4.5
r52 39 41 202.25
r53 35 67 4.5
r54 35 37 142.75
r55 34 66 0.990414
r56 33 67 4.5
r57 33 34 25.5
r58 29 66 3.81101
r59 29 31 202.25
r60 25 66 3.81101
r61 25 27 142.75
r62 23 24 4.08318
r63 21 23 1.18912
r64 20 23 1.18912
r65 18 19 4.08318
r66 16 18 1.49223
r67 15 18 1.18912
r68 14 84 0.3052
r69 13 14 4.08318
r70 11 13 1.18912
r71 10 13 1.18912
r72 9 19 0.427609
r73 7 14 0.3934
r74 7 8 0.0286055
r75 6 24 0.83087
r76 6 8 0.0286055
r77 5 8 0.00858509
r78 4 9 0.039111
r79 4 5 0.366739
.ends

.subckt PM_PATH_DELAY_4%XI7/NET1 18 19 23 24 28 29 33 34 38 39
c0 42 0 0.592375f
c1 37 0 0.585837f
c2 32 0 0.605133f
c3 27 0 0.578677f
c4 22 0 0.579341f
c5 16 0 0.0357797f
c6 12 0 0.033488f
c7 8 0 0.258663f
c8 7 0 0.0588985f
c9 6 0 0.203357f
c10 4 0 0.251408f
c11 3 0 0.0432456f
c12 2 0 0.195368f
r13 41 42 1.81474
r14 39 41 0.515436
r15 38 41 0.511409
r16 36 37 1.81474
r17 34 36 0.515436
r18 33 36 0.511409
r19 31 32 1.81474
r20 29 31 0.515436
r21 28 31 0.511409
r22 26 27 1.81474
r23 24 26 0.515436
r24 23 26 0.511409
r25 21 22 1.81474
r26 19 21 0.515436
r27 18 21 0.511409
r28 17 42 0.716435
r29 15 37 0.716435
r30 15 16 0.00943548
r31 14 32 0.716435
r32 13 32 0.717043
r33 11 27 0.717043
r34 11 12 0.00770322
r35 10 22 0.717043
r36 9 16 0.0276388
r37 8 17 0.0391994
r38 8 9 0.322
r39 7 14 0.0391994
r40 6 16 0.0276388
r41 6 7 0.322
r42 5 12 0.0296412
r43 4 13 0.039111
r44 4 5 0.35
r45 3 10 0.039111
r46 2 12 0.0296412
r47 2 3 0.35
.ends

.subckt PM_PATH_DELAY_4%NET11 23 28 29 33 34 38 43 48 49 53 54 60 64 70 74 80 84
+ 90 94 100 104 110 114 120 124 130 134 140 144 150 154
c0 186 0 0.134922f
c1 170 0 0.0130104f
c2 169 0 0.0123402f
c3 168 0 0.0123402f
c4 167 0 0.0123402f
c5 166 0 0.0123402f
c6 165 0 0.0123402f
c7 164 0 0.0123402f
c8 163 0 0.0123402f
c9 162 0 0.0123402f
c10 158 0 0.127845f
c11 157 0 0.0899778f
c12 154 0 0.450187f
c13 150 0 0.233194f
c14 146 0 0.0582112f
c15 144 0 0.392067f
c16 140 0 0.215204f
c17 136 0 0.052821f
c18 134 0 0.392205f
c19 130 0 0.215204f
c20 126 0 0.0548686f
c21 124 0 0.392205f
c22 120 0 0.215204f
c23 116 0 0.052821f
c24 114 0 0.392204f
c25 110 0 0.215204f
c26 106 0 0.0548686f
c27 104 0 0.392204f
c28 100 0 0.215204f
c29 96 0 0.052821f
c30 94 0 0.392204f
c31 90 0 0.215204f
c32 86 0 0.0548686f
c33 84 0 0.392204f
c34 80 0 0.215204f
c35 76 0 0.052821f
c36 74 0 0.391938f
c37 70 0 0.215019f
c38 66 0 0.0544856f
c39 64 0 0.431622f
c40 60 0 0.336368f
c41 57 0 0.663205f
c42 52 0 0.636749f
c43 46 0 0.328078f
c44 41 0 0.681285f
c45 37 0 0.95935f
c46 32 0 0.964002f
c47 26 0 0.489367f
c48 22 0 0.0350101f
c49 20 0 0.0350101f
c50 18 0 0.00581396f
c51 15 0 0.00581396f
c52 8 0 0.196287f
c53 6 0 0.161148f
c54 4 0 0.11001f
c55 3 0 0.0174766f
c56 2 0 0.0933343f
r57 158 186 0.0781443
r58 157 159 8.44997
r59 157 158 13.2552
r60 152 170 3.81101
r61 152 154 232
r62 148 170 3.81101
r63 148 150 129.5
r64 147 169 4.5
r65 146 170 0.990414
r66 146 147 25.5
r67 142 169 4.5
r68 142 144 232
r69 138 169 4.5
r70 138 140 129.5
r71 137 168 4.5
r72 136 169 4.5
r73 136 137 25.5
r74 132 168 4.5
r75 132 134 232
r76 128 168 4.5
r77 128 130 129.5
r78 127 167 4.5
r79 126 168 4.5
r80 126 127 25.5
r81 122 167 4.5
r82 122 124 232
r83 118 167 4.5
r84 118 120 129.5
r85 117 166 4.5
r86 116 167 4.5
r87 116 117 25.5
r88 112 166 4.5
r89 112 114 232
r90 108 166 4.5
r91 108 110 129.5
r92 107 165 4.5
r93 106 166 4.5
r94 106 107 25.5
r95 102 165 4.5
r96 102 104 232
r97 98 165 4.5
r98 98 100 129.5
r99 97 164 4.5
r100 96 165 4.5
r101 96 97 25.5
r102 92 164 4.5
r103 92 94 232
r104 88 164 4.5
r105 88 90 129.5
r106 87 163 4.5
r107 86 164 4.5
r108 86 87 25.5
r109 82 163 4.5
r110 82 84 232
r111 78 163 4.5
r112 78 80 129.5
r113 77 162 4.5
r114 76 163 4.5
r115 76 77 25.5
r116 72 162 4.5
r117 72 74 232
r118 68 162 4.5
r119 68 70 129.5
r120 67 161 7.74711
r121 67 157 0.668571
r122 66 162 4.5
r123 66 67 23.75
r124 64 161 226
r125 60 159 119.5
r126 56 57 1.81474
r127 54 56 0.515436
r128 53 56 0.511409
r129 51 52 1.81474
r130 49 51 0.515436
r131 48 51 0.511409
r132 45 46 1.81474
r133 43 45 0.511409
r134 40 41 1.08885
r135 38 40 0.309262
r136 36 37 1.08885
r137 34 36 0.309262
r138 33 36 0.306846
r139 31 32 1.08885
r140 29 31 0.309262
r141 28 31 0.306846
r142 25 26 1.08885
r143 23 25 0.306846
r144 21 41 1.15652
r145 21 22 0.00770322
r146 19 37 1.15652
r147 19 20 0.00770322
r148 17 32 1.15652
r149 17 18 0.035
r150 16 57 0.865565
r151 16 18 0.035
r152 14 26 1.15652
r153 14 15 0.035
r154 13 52 0.865565
r155 13 15 0.035
r156 12 46 0.865565
r157 11 22 0.0296412
r158 11 186 0.327174
r159 9 20 0.0296412
r160 8 22 0.0296412
r161 8 9 0.35
r162 7 18 0.035
r163 6 20 0.0296412
r164 6 7 0.35
r165 5 15 0.035
r166 4 18 0.035
r167 4 5 0.35
r168 3 12 0.039111
r169 2 15 0.035
r170 2 3 0.35
.ends

.subckt PM_PATH_DELAY_4%OUT 22 26 27 31 32 36 37 41 42 46 47 51 52 56 57 61 62
+ 66 67 71 72
c0 75 0 0.621618f
c1 70 0 0.597721f
c2 65 0 0.597721f
c3 60 0 0.597721f
c4 55 0 0.616245f
c5 50 0 1.19368f
c6 46 0 0.0245405f
c7 45 0 1.18909f
c8 41 0 0.0245405f
c9 40 0 1.18909f
c10 36 0 0.0245405f
c11 35 0 1.18909f
c12 31 0 0.0245405f
c13 30 0 1.20002f
c14 26 0 0.0245405f
c15 25 0 0.0276636f
c16 22 0 0.0101616f
c17 18 0 0.0101616f
c18 15 0 0.0101616f
c19 12 0 0.0418308f
c20 8 0 0.12805f
c21 6 0 0.128197f
c22 4 0 0.128197f
c23 2 0 0.128036f
r24 74 75 1.81474
r25 72 74 0.533333
r26 71 74 0.529167
r27 69 70 1.81474
r28 67 69 0.533333
r29 66 69 0.529167
r30 64 65 1.81474
r31 62 64 0.533333
r32 61 64 0.529167
r33 59 60 1.81474
r34 57 59 0.533333
r35 56 59 0.529167
r36 54 55 1.81474
r37 52 54 0.533333
r38 51 54 0.529167
r39 49 50 0.907372
r40 47 49 0.266667
r41 46 49 0.264583
r42 44 45 0.907372
r43 42 44 0.266667
r44 41 44 0.264583
r45 39 40 0.907372
r46 37 39 0.266667
r47 36 39 0.264583
r48 34 35 0.907372
r49 32 34 0.266667
r50 31 34 0.264583
r51 29 30 0.907372
r52 27 29 0.266667
r53 26 29 0.264583
r54 24 50 1.47
r55 24 25 0.0296412
r56 23 75 0.786435
r57 23 25 0.0296412
r58 20 45 1.47
r59 20 22 0.035
r60 19 70 0.786435
r61 19 22 0.035
r62 17 40 1.47
r63 17 18 0.035
r64 16 65 0.786435
r65 16 18 0.035
r66 14 35 1.47
r67 14 15 0.035
r68 13 60 0.786435
r69 13 15 0.035
r70 11 30 1.47
r71 11 12 0.0296412
r72 10 55 0.786435
r73 10 12 0.0296412
r74 9 22 0.035
r75 8 25 0.00770322
r76 8 9 0.35
r77 7 18 0.035
r78 6 22 0.035
r79 6 7 0.35
r80 5 15 0.035
r81 4 18 0.035
r82 4 5 0.35
r83 3 12 0.00770322
r84 2 15 0.035
r85 2 3 0.35
.ends

.subckt PM_PATH_DELAY_4%NET7 12 17 18 22 34 39 44 48 53 57
c0 61 0 0.0152871f
c1 60 0 0.00924189f
c2 59 0 0.0168869f
c3 58 0 0.0414266f
c4 55 0 0.17312f
c5 53 0 0.381467f
c6 49 0 0.06323f
c7 46 0 0.107561f
c8 44 0 0.370541f
c9 40 0 0.0588734f
c10 37 0 0.101438f
c11 35 0 0.0277335f
c12 32 0 0.178177f
c13 30 0 0.0539376f
c14 29 0 0.152521f
c15 25 0 0.275235f
c16 21 0 0.310953f
c17 15 0 0.292026f
c18 11 0 0.0137575f
c19 8 0 0.00964179f
c20 4 0 0.0281566f
c21 3 0 0.0285368f
c22 2 0 0.100413f
r23 55 61 3.81101
r24 55 57 54.25
r25 51 61 3.81101
r26 51 53 156
r27 50 60 4.5
r28 49 61 0.990414
r29 49 50 25.5
r30 46 60 4.5
r31 46 48 54.25
r32 42 60 4.5
r33 42 44 156
r34 41 59 3.81101
r35 40 60 4.5
r36 40 41 25.5
r37 37 59 0.990414
r38 37 39 54.25
r39 36 58 2.83501
r40 35 59 3.81101
r41 35 36 11.5
r42 32 58 2.1131
r43 32 34 54.25
r44 29 30 13.2552
r45 27 58 2.1131
r46 27 29 8.48571
r47 24 25 2.72212
r48 22 24 0.762
r49 20 21 4.08318
r50 18 20 1.152
r51 17 20 1.143
r52 14 15 4.08318
r53 12 14 1.143
r54 10 30 0.158565
r55 10 11 0.0296412
r56 9 25 0.833913
r57 9 11 0.00770322
r58 7 21 0.570652
r59 7 8 0.00770322
r60 6 15 0.570652
r61 5 8 0.0296412
r62 4 11 0.0296412
r63 4 5 0.108043
r64 3 6 0.039111
r65 2 8 0.0296412
r66 2 3 0.35
.ends

.subckt PM_PATH_DELAY_4%GND 24 48 61 62 66 67 71 75 82 83 87 88 92 93 97 98 102
+ 108 109 113 114 119 120
c0 123 0 0.294294f
c1 117 0 0.311844f
c2 112 0 0.294294f
c3 105 0 0.364005f
c4 101 0 0.613513f
c5 96 0 0.613513f
c6 91 0 0.613514f
c7 86 0 0.61355f
c8 79 0 0.594772f
c9 70 0 0.614224f
c10 65 0 0.641071f
c11 34 0 0.00867406f
c12 27 0 0.295202f
c13 24 0 0.0140645f
c14 20 0 0.00425f
c15 18 0 0.00425f
c16 17 0 0.0590297f
c17 16 0 0.159727f
c18 14 0 0.00867406f
c19 12 0 0.00867406f
c20 10 0 0.00867406f
c21 8 0 0.00867406f
c22 6 0 0.0122895f
c23 4 0 0.0122895f
r24 122 123 4.08318
r25 120 122 1.30401
r26 119 122 1.30401
r27 117 153 0.836957
r28 116 117 4.08318
r29 114 116 1.18912
r30 113 116 1.18912
r31 111 112 4.08318
r32 109 111 1.30401
r33 108 111 1.30401
r34 104 105 1.81474
r35 102 104 0.533333
r36 100 101 1.81474
r37 98 100 0.533333
r38 97 100 0.529167
r39 95 96 1.81474
r40 93 95 0.533333
r41 92 95 0.529167
r42 90 91 1.81474
r43 88 90 0.533333
r44 87 90 0.529167
r45 85 86 1.81474
r46 83 85 0.533333
r47 82 85 0.529167
r48 78 79 2.04159
r49 75 78 0.633978
r50 73 126 1.30521
r51 73 78 31.9412
r52 72 126 1.30521
r53 71 72 5.05415
r54 69 70 1.81474
r55 67 69 0.515436
r56 66 69 0.511409
r57 64 65 1.81474
r58 62 64 0.515436
r59 61 64 0.511409
r60 57 153 0.0146576
r61 48 57 1.08885
r62 48 53 0.563197
r63 46 123 0.836957
r64 46 47 0.0146576
r65 44 112 0.836957
r66 44 45 0.0146576
r67 43 105 0.74687
r68 42 105 0.905739
r69 40 101 0.905739
r70 40 41 0.0146576
r71 38 96 0.905739
r72 38 39 0.0146576
r73 36 91 0.905739
r74 36 37 0.0146576
r75 34 53 0.237125
r76 34 35 0.0223375
r77 33 86 0.905739
r78 33 35 0.0146576
r79 31 53 0.0144375
r80 31 32 0.0223375
r81 30 79 0.994
r82 30 32 0.0146576
r83 28 70 0.847913
r84 28 29 0.0146576
r85 26 65 0.847913
r86 26 27 0.0132807
r87 22 47 0.0223375
r88 22 24 0.424375
r89 21 57 0.0223375
r90 20 47 0.0223375
r91 20 21 0.251563
r92 19 45 0.0223375
r93 18 57 0.0223375
r94 18 19 0.251563
r95 17 43 0.0404887
r96 16 45 0.0223375
r97 16 17 0.887031
r98 15 41 0.0223375
r99 14 42 0.0404887
r100 14 15 0.251563
r101 13 39 0.0223375
r102 12 41 0.0223375
r103 12 13 0.251563
r104 11 37 0.0223375
r105 10 39 0.0223375
r106 10 11 0.251563
r107 9 35 0.0223375
r108 8 37 0.0223375
r109 8 9 0.251563
r110 7 29 0.0223375
r111 6 32 0.0223375
r112 6 7 0.251563
r113 5 27 0.023635
r114 4 29 0.0223375
r115 4 5 0.251563
.ends

.subckt PM_PATH_DELAY_4%PULSE_IN 4 13 20
c0 20 0 0.146123f
c1 18 0 0.0911618f
c2 13 0 0.425277f
c3 8 0 0.0990907f
c4 7 0 0.0249644f
c5 6 0 0.217309f
c6 4 0 0.477384f
r7 15 18 8.84118
r8 15 20 13.2552
r9 11 13 72.5
r10 10 13 114.75
r11 8 11 5.02856
r12 8 18 31
r13 6 10 5.02856
r14 6 7 63.25
r15 2 7 5.02856
r16 2 4 124
.ends

.subckt PM_PATH_DELAY_4%NET14 12 13 17 22 29 33 38 42 47 57
c0 61 0 0.041352f
c1 60 0 0.0168869f
c2 59 0 0.00924189f
c3 58 0 0.0152871f
c4 55 0 0.176491f
c5 52 0 0.15252f
c6 48 0 0.0276247f
c7 45 0 0.0997515f
c8 43 0 0.0587251f
c9 40 0 0.105875f
c10 38 0 0.370541f
c11 34 0 0.063009f
c12 31 0 0.17312f
c13 29 0 0.381467f
c14 25 0 0.234204f
c15 20 0 0.178083f
c16 16 0 0.309828f
c17 10 0 0.00964179f
c18 8 0 0.0137574f
c19 7 0 0.0539373f
c20 4 0 0.118723f
c21 2 0 0.0281564f
r22 55 61 2.1131
r23 55 57 54.25
r24 52 53 13.2552
r25 50 61 2.1131
r26 50 52 8.48571
r27 49 60 3.81101
r28 48 61 2.83501
r29 48 49 11.5
r30 45 60 0.990414
r31 45 47 54.25
r32 44 59 4.5
r33 43 60 3.81101
r34 43 44 25.5
r35 40 59 4.5
r36 40 42 54.25
r37 36 59 4.5
r38 36 38 156
r39 35 58 0.990414
r40 34 59 4.5
r41 34 35 25.5
r42 31 58 3.81101
r43 31 33 54.25
r44 27 58 3.81101
r45 27 29 156
r46 24 25 2.72212
r47 22 24 0.765
r48 19 20 4.08318
r49 17 19 1.1475
r50 15 16 4.08318
r51 13 15 1.1475
r52 12 15 1.1475
r53 11 20 0.570652
r54 9 16 0.570652
r55 9 10 0.00770322
r56 7 53 0.158261
r57 7 8 0.0296412
r58 6 25 0.833913
r59 6 8 0.00770322
r60 5 10 0.0296412
r61 4 11 0.039111
r62 4 5 0.35
r63 3 8 0.0296412
r64 2 10 0.0296412
r65 2 3 0.108043
.ends

.subckt PM_PATH_DELAY_4%VDD 80 82 83 84 88 89 93 94 98 103 104 108 109 113 114
+ 118 119 123 128 129 134 135 139 140 144 145 149 150 155 156 160 161 180 186
+ 192 199 202 206 210 216 222 226
c0 251 0 0.0420229f
c1 250 0 0.0961279f
c2 247 0 0.106536f
c3 245 0 0.00560158f
c4 241 0 0.0689328f
c5 240 0 0.0517438f
c6 239 0 0.0864692f
c7 236 0 0.0116844f
c8 235 0 0.107933f
c9 229 0 0.0437566f
c10 228 0 0.10032f
c11 226 0 0.281007f
c12 222 0 0.369275f
c13 218 0 0.00868753f
c14 217 0 0.183618f
c15 214 0 0.115765f
c16 213 0 0.0383825f
c17 212 0 0.169802f
c18 210 0 0.322607f
c19 206 0 0.261716f
c20 202 0 0.118155f
c21 197 0 0.115765f
c22 196 0 0.0171253f
c23 194 0 0.0100837f
c24 193 0 0.15735f
c25 192 0 0.300149f
c26 188 0 0.0100837f
c27 187 0 0.116366f
c28 186 0 0.258306f
c29 182 0 0.0203803f
c30 181 0 0.173508f
c31 180 0 0.308792f
c32 164 0 0.264292f
c33 159 0 0.373246f
c34 153 0 0.395758f
c35 148 0 0.423226f
c36 143 0 0.405775f
c37 138 0 0.307114f
c38 132 0 0.282487f
c39 126 0 0.81347f
c40 125 0 0.0227876f
c41 122 0 1.20237f
c42 118 0 0.0245405f
c43 117 0 1.20237f
c44 113 0 0.0245405f
c45 112 0 1.20237f
c46 108 0 0.0245405f
c47 107 0 1.20237f
c48 103 0 0.0245405f
c49 101 0 0.837353f
c50 98 0 0.0227876f
c51 97 0 1.12313f
c52 92 0 1.11598f
c53 87 0 1.10865f
c54 80 0 0.00340231f
c55 54 0 0.017808f
c56 37 0 0.00342493f
c57 34 0 0.00325544f
c58 32 0 0.0296582f
c59 30 0 0.00810756f
c60 28 0 0.0169993f
c61 26 0 0.00116088f
c62 25 0 0.0140851f
c63 22 0 8.02099e-19
c64 21 0 0.00113041f
c65 20 0 0.00413909f
c66 18 0 0.00480529f
c67 16 0 0.017808f
c68 14 0 0.017808f
c69 12 0 0.017808f
c70 10 0 0.017808f
c71 8 0 0.0205274f
c72 6 0 0.00570714f
c73 4 0 0.0360941f
r74 250 252 8.43283
r75 250 251 13.2552
r76 244 247 3.33
r77 244 245 13.2552
r78 240 297 0.0558067
r79 239 241 8.85918
r80 239 240 13.2552
r81 235 236 13.2552
r82 232 235 3.348
r83 228 230 8.43283
r84 228 229 13.2552
r85 226 252 60
r86 223 226 157.75
r87 220 247 5.0159
r88 220 222 91
r89 219 222 136.25
r90 217 223 5.02856
r91 217 218 89.25
r92 214 218 5.02856
r93 214 216 81
r94 212 219 5.02856
r95 212 213 76.25
r96 208 213 5.02856
r97 208 210 102.5
r98 204 206 124
r99 200 202 102.5
r100 197 199 81
r101 196 241 31
r102 193 204 5.02856
r103 193 194 63.25
r104 190 196 5.02856
r105 190 192 72.5
r106 189 194 5.02856
r107 189 192 114.75
r108 187 200 5.02856
r109 187 188 76.25
r110 184 232 5.0159
r111 184 186 91
r112 183 188 5.02856
r113 183 186 136.25
r114 181 197 5.02856
r115 181 182 89.25
r116 180 230 60
r117 177 182 5.02856
r118 177 180 157.75
r119 163 164 4.08318
r120 161 163 1.1475
r121 160 163 1.1475
r122 158 159 4.08318
r123 156 158 1.30401
r124 155 158 1.30401
r125 152 153 4.08318
r126 150 152 1.18912
r127 149 152 1.18912
r128 147 148 4.08318
r129 145 147 1.18912
r130 144 147 1.18912
r131 142 143 4.08318
r132 140 142 1.19378
r133 139 142 1.18446
r134 137 138 4.08318
r135 135 137 1.30401
r136 134 137 1.30401
r137 131 132 4.08318
r138 129 131 1.152
r139 128 131 1.143
r140 125 126 0.907372
r141 123 125 0.266667
r142 121 122 0.907372
r143 119 121 0.266667
r144 118 121 0.264583
r145 116 117 0.907372
r146 114 116 0.266667
r147 113 116 0.264583
r148 111 112 0.907372
r149 109 111 0.266667
r150 108 111 0.264583
r151 106 107 0.907372
r152 104 106 0.266667
r153 103 106 0.264583
r154 100 101 0.907372
r155 98 100 0.264583
r156 96 97 1.08885
r157 94 96 0.309262
r158 93 96 0.306846
r159 91 92 1.08885
r160 89 91 0.309262
r161 88 91 0.306846
r162 86 87 1.08885
r163 84 86 0.309262
r164 83 86 0.306846
r165 82 175 0.33332
r166 78 251 0.313478
r167 77 80 0.0592308
r168 77 78 0.0219566
r169 76 164 0.695435
r170 75 77 0.090641
r171 75 76 0.0219566
r172 74 245 0.124783
r173 73 75 0.0951282
r174 73 74 0.0219566
r175 71 159 0.695435
r176 71 72 0.0189182
r177 69 153 0.695435
r178 69 70 0.0189182
r179 67 148 0.695435
r180 67 68 0.0189182
r181 65 143 0.695435
r182 65 66 0.0189182
r183 62 138 0.695435
r184 62 63 0.0189182
r185 61 236 0.124783
r186 60 61 0.0219566
r187 59 132 0.695435
r188 58 60 0.0951282
r189 58 59 0.0219566
r190 57 229 0.313478
r191 56 58 0.090641
r192 56 57 0.0219566
r193 54 175 0.138923
r194 54 55 0.0187308
r195 53 126 1.3787
r196 53 55 0.0189182
r197 51 175 0.0674872
r198 51 52 0.0187308
r199 50 122 1.3787
r200 50 52 0.0189182
r201 48 117 1.3787
r202 48 49 0.0189182
r203 46 112 1.3787
r204 46 47 0.0189182
r205 44 107 1.3787
r206 44 45 0.0189182
r207 42 101 1.3787
r208 42 43 0.0189182
r209 40 97 1.67087
r210 40 41 0.0189182
r211 38 92 1.67087
r212 38 39 0.0189182
r213 36 87 1.67087
r214 36 37 0.0189182
r215 35 72 0.0187308
r216 34 73 0.020641
r217 34 35 0.111282
r218 33 70 0.0187308
r219 32 72 0.0187308
r220 32 33 0.218077
r221 31 68 0.0187308
r222 30 70 0.0187308
r223 30 31 0.20641
r224 29 66 0.0187308
r225 28 68 0.0187308
r226 28 29 0.20641
r227 27 64 0.0187308
r228 26 66 0.0187308
r229 26 27 0.103205
r230 25 64 0.0189182
r231 25 297 0.161304
r232 23 63 0.0187308
r233 22 64 0.0187308
r234 22 23 0.0735897
r235 21 60 0.020641
r236 20 63 0.0187308
r237 20 21 0.111282
r238 19 55 0.0187308
r239 18 56 0.020641
r240 18 19 0.130128
r241 17 49 0.0187308
r242 16 52 0.0187308
r243 16 17 0.20641
r244 15 47 0.0187308
r245 14 49 0.0187308
r246 14 15 0.20641
r247 13 45 0.0187308
r248 12 47 0.0187308
r249 12 13 0.20641
r250 11 43 0.0187308
r251 10 45 0.0187308
r252 10 11 0.20641
r253 9 41 0.0187308
r254 8 43 0.0187308
r255 8 9 0.330256
r256 7 39 0.0187308
r257 6 41 0.0187308
r258 6 7 0.20641
r259 5 37 0.0187308
r260 4 39 0.0187308
r261 4 5 0.20641
.ends

.subckt PM_PATH_DELAY_4%XI3/NET1 1 2
r0 1 2 0.75
.ends

.subckt PM_PATH_DELAY_4%XI3/NET4 1 2
r0 1 2 0.75
.ends

.subckt PM_PATH_DELAY_4%XI14/NET4 1 2
r0 1 2 0.75
.ends

.subckt PM_PATH_DELAY_4%XI14/NET1 1 2
r0 1 2 0.75
.ends

